US08138197B2
1-Methyl-3-phenyl-1H-indazole-6-carboxylic acid
In a 50-mL egg plant-type flask, aqueous 5 N sodium hydroxide solution (1.3 mL, 6.5 mmol) was added to a THF (5 mL)-methanol (5 mL) mixed solution of methyl 1-methyl-3-phenyl-1H-indazole-6-carboxylate (604 mg, 22 mmol), and stirred overnight at 60° C. With cooling with ice, aqueous 5 N hydrochloric acid solution (1.3 mL, 6.5 mmol) was added to the reaction solution, and concentrated to obtain a mixture of the title compound with salt, as a colorless solid.

reactant | sodium hydroxide | 6.5 mmol, 5 N, 1.3 mL | [OH-].[Na+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | methyl 1-methyl-3-phenyl-1H-indazole-6-carboxylate | 22 mmol, 604 mg | CN1N=C(C2=CC=C(C=C12)C(=O)OC)C1=CC=CC=C1 | C16H14N2O2
reactant | hydrochloric acid | 6.5 mmol, 5 N, 1.3 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 1-Methyl-3-phenyl-1H-indazole-6-carboxylic acid | CN1N=C(C2=CC=C(C=C12)C(=O)O)C1=CC=CC=C1 | C15H12N2O2
